US07713979B2
3′-Chloro-4′-(1-cyclohexyl-2-oxo-pyrrolidin-3-ylmethyl)-biphenyl-4-carboxylic acid tert-butyl ester
Using the procedure to synthesize Example 81 and using reagents 3-(4-bromo-2-chloro-benzyl)-1-cyclohexyl-pyrrolidin-2-one (500 mg, 1.35 mmol) and 4-(tert-butoxycarbonyl)phenylboronic acid (900 mg, 4.0 mmol) affords 495 mg (78%) of the title compound: Mass spectrum (apci) m/z=468.2 (M+H).

reactant | 3-(4-bromo-2-chloro-benzyl)-1-cyclohexyl-pyrrolidin-2-one | 1.35 mmol, 500 mg | BrC1=CC(=C(CC2C(N(CC2)C2CCCCC2)=O)C=C1)Cl | C17H21BrClNO
reactant | 4-(tert-butoxycarbonyl)phenylboronic acid | 4.0 mmol, 900 mg | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)B(O)O | C11H15BO4
product | 3′-Chloro-4′-(1-cyclohexyl-2-oxo-pyrrolidin-3-ylmethyl)-biphenyl-4-carboxylic acid tert-butyl ester | 495 mg, 78% | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)C1=CC(=C(C=C1)CC1C(N(CC1)C1CCCCC1)=O)Cl | C28H34ClNO3
